US08541448B2
Intermediate 31.2: 2-((2,4-dichlorobenzyl)(methyl)amino)-1-(3-nitrophenyl)ethanone
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 2-bromo-1-(3-nitrophenyl)ethanone (2 g, 8.23 mmol, 1.00 equiv), triethylamine (3.4 g, 4.00 equiv), (2,4-dichlorophenyl)-N-methylmethanamine (1.9 g, 10.05 mmol, 1.20 equiv), 1,4-dioxane (50 mL). The resulting solution was stirred for 2 h at room temperature at which time it was judged to be complete by LCMS. The mixture was concentrated under vacuum and the residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:100-1:50). This resulted in 1.5 g (50%) of 2-((2,4-dichlorobenzyl)(methyl)amino)-1-(3-nitrophenyl)ethanone as a yellow solid.

reactant | 2-bromo-1-(3-nitrophenyl)ethanone | 8.23 mmol, 2 g, 1.00 equiv | BrCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | triethylamine | 3.4 g, 4.00 equiv | C(C)N(CC)CC | C6H15N
reactant | (2,4-dichlorophenyl)-N-methylmethanamine | 10.05 mmol, 1.9 g, 1.20 equiv | ClC1=C(C=CC(=C1)Cl)CNC | C8H9Cl2N
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-((2,4-dichlorobenzyl)(methyl)amino)-1-(3-nitrophenyl)ethanone | ClC1=C(CN(CC(=O)C2=CC(=CC=C2)[N+](=O)[O-])C)C=CC(=C1)Cl | C16H14Cl2N2O3
